US07173031B2
To a suspension of anhydrous aluminum hydride (266 mg, 2.0 mmol, Alfa Aesar) in 5 mL of 1,2 dimethoxyethane at 0° C. was added lithium aluminum hydride (1 M soln. in THF, 1.0 mL, 1.0 mmol). A solution of 2-(4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-oxoethyl formate (72 mg, 0.2 mmol) in 5 mL of 1,2-dimethoxyethane was added dropwise. The reaction mixture was stirred at rt for 2 h and quenched by the addition of 5 mL of cold water. The mixture was extracted with EtOAc (3×30 mL) and the combined organic extracts were dried (MgSO4), concentrated in vacuo and purified by flash column chromatography (ISCO RediSep® silica gel cartridge, etuting with 2–10% MeOH in dichloromethane) to give 1-(4-(4-amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)ethane-1,2-diol (27 mg, 45%): MS(ESI+) m/z 304.3 (M+H)+ and 2-(4-(4-amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)ethanol (10 mg, 18%): MS(ESI+) m/z 288.3 (M+H)+.

reactant | aluminum hydride | 2.0 mmol, 266 mg | [H-].[Al+3].[H-].[H-]
reactant | lithium aluminum hydride | 1.0 mmol, 1 M, 1.0 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-(2-fluoro-4-nitrophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-oxoethyl formate | 0.2 mmol, 72 mg | C(=O)OCC(=O)C1=CNC2=NC=CC(=C21)OC2=C(C=C(C=C2)[N+](=O)[O-])F | C16H10FN3O6
solvent | 1,2 dimethoxyethane | 5 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
product | 1-(4-(4-amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)ethane-1,2-diol | 27 mg, 45% | NC1=CC(=C(OC2=C3C(=NC=C2)NC=C3C(CO)O)C=C1)F | C15H14FN3O3
